US06900243B2
a) [3-[2-Chloro-5-(trifluoromethyl)phenoxy]pentyl]methylcarbamic Acid, 1,1-dimethylethyl ester
The title compound was prepared according to the method of Example 2 step (b) but using (3-hydroxypentyl)methylcarbamic acid, 1,1-dimethylethyl ester and 2-chloro-5-(trifluoromethyl)phenol.

reactant | (3-hydroxypentyl)methylcarbamic acid, 1,1-dimethylethyl ester | OC(CCN(C(OC(C)(C)C)=O)C)CC | C11H23NO3
reactant | 2-chloro-5-(trifluoromethyl)phenol | ClC1=C(C=C(C=C1)C(F)(F)F)O | C7H4ClF3O
product | [3-[2-Chloro-5-(trifluoromethyl)phenoxy]pentyl]methylcarbamic Acid, 1,1-dimethylethyl ester | ClC1=C(OC(CCN(C(OC(C)(C)C)=O)C)CC)C=C(C=C1)C(F)(F)F | C18H25ClF3NO3
